US06388091B1
Preparation of 1-(N,N-Dimethylaminomethyl)-2-methylimidazole
20 g of 2-methylimidazole and 20 g of dimethylamine hydrochloride were dissolved in 50 ml of distilled water, and pH of the solution was adjusted to 5 with conc. hydrochloric acid. 22 g of 37% aqueous formaldehyde was added to the solution and kept at room temperature for 24 hrs. Then, the resulting solution was alkalized with 20% potassium hydroxide, saturated with potassium carbonate and extracted with chloroform. The organic layer was dried over potassium carbonate, and then vacuum-distilled, to obtain 28.1 g of the title compound (yield: 83%).

reactant | 2-methylimidazole | 20 g | CC=1NC=CN1 | C4H6N2
reactant | dimethylamine hydrochloride | 20 g | Cl.CNC
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | 22 g | C=O | CH2O
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 50 ml | O | H2O
product | 1-(N,N-Dimethylaminomethyl)-2-methylimidazole | 28.1 g, yield: 83% | CN(C)CN1C(=NC=C1)C | C7H13N3
